US03952007
5-nitro-1-[2-(4-pyridinyl)-ethyl]-2-(2-dimethylaminovinyl)-imidazole
2.32 g. (0.01 mole) of 5-nitro-2-methyl-1-[2-(4-pyridinyl)-ethyl]-imidazole was reacted analogously to Example 1. After cooling, the reaction solution was mixed with ethanol and the precipitate vacuum-filtered; m.p. 190°-191° C.

reactant | 5-nitro-2-methyl-1-[2-(4-pyridinyl)-ethyl]-imidazole | 0.01 mole | [N+](=O)([O-])C1=CN=C(N1CCC1=CC=NC=C1)C | C11H12N4O2
solvent | ethanol | C(C)O | C2H6O
product | 5-nitro-1-[2-(4-pyridinyl)-ethyl]-2-(2-dimethylaminovinyl)-imidazole | [N+](=O)([O-])C1=CN=C(N1CCC1=CC=NC=C1)C=CN(C)C | C14H17N5O2
